US09388176B2
2-(Methylthio)-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidine
To a solution of tert-butyl 2-(methylthio)-5,7-dihydro-6H-pyrrolo[3,4-d]pyrimidine-6-carboxylate (1.43 g, 5.36 mmol) in dichloromethane (10 mL) was added a solution of trifluoroacetic acid (4.0 mL, 52 mmol) in dichloromethane (5 mL). The solution was stirred at room temperature for 3 hours. The dichloromethane was removed in vacuo. The residue was dissolved in water, treated with 5M sodium hydroxide to pH=14 and extracted with dichloromethane (5×10 mL). The organic layer was dried (MgSO4) filtered and evaporated to give the title compound (870 mg, 97%).

reactant | tert-butyl 2-(methylthio)-5,7-dihydro-6H-pyrrolo[3,4-d]pyrimidine-6-carboxylate | 5.36 mmol, 1.43 g | CSC=1N=CC2=C(N1)CN(C2)C(=O)OC(C)(C)C | C12H17N3O2S
reactant | trifluoroacetic acid | 52 mmol, 4.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-(Methylthio)-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidine | 870 mg, 97% | CSC=1N=CC2=C(N1)CNC2 | C7H9N3S
